US07691877B2
(2-Amino-6-methylsulfanyl-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester
Sodium methanethiolate (180 mg) was added portion-wise to a stirred suspension of (2-amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (300 mg) in methanol:THF (3:1, 4 ml). The mixture was sealed in a ReactiVial then left to stir at room temperature for 2 hours. The reaction mixture was diluted with methanol then pre-absorbed directly onto silica gel. The crude was columned on Isco Companion on a silica column (12 g, Redisep), eluting with EtOAc:heptane, increasing the gradient linearly from 30:70 to 50:50 over 6 column volumes. The desired fractions were combined and evaporated to provide the title compound (297 mg) as a yellow gum.

reactant | Sodium methanethiolate | 180 mg | C[S-].[Na+]
reactant | (2-amino-6-chloro-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 300 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Cl)N)[N+](=O)[O-])=O | C15H15ClN4O4
solvent | methanol THF | 4 ml | CO.C1CCOC1
solvent | methanol | CO | CH4O
product | (2-Amino-6-methylsulfanyl-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 297 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)SC)N)[N+](=O)[O-])=O | C16H18N4O4S
